US07842688B2
c) Benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-hydroxypiperidine-1-carboxylate
Analogously to Method I, 0.665 g of benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate and 0.824 g of 2-(2,5-difluorobenzyloxy)ethyl toluene-4-sulphonate are reacted. The title compound is obtained as a colourless oil. Rf=0.21 (1:1 EtOAc-heptane). Rt=5.01.

reactant | benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.665 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
reactant | 2-(2,5-difluorobenzyloxy)ethyl toluene-4-sulphonate | 0.824 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCC1=C(C=CC(=C1)F)F)C | C16H16F2O4S
product | Benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | FC1=C(COCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)O)C=C(C=C1)F | C28H29F2NO5
